US04336389
Preparation of Ethyl 2-Chloro-4-(p-Nitrophenyl)-5Thiazolecarboxylate
Ethyl 2-chloro-p-nitrobenzoylacetate, obtained from ethyl p-nitrobenzoylacetate and sulfuryl chloride in accordance with the procedure of Balog et al, Studio. Univ. Bebes. Boylai., Vol. 1, No. 2, Page 155 (1960), was converted to ethyl 2-amino-4-p-nitrophenyl-5-thiazolecarboxylate with thiourea in accordance with a procedure in the above-mentioned publication. To a cooled (15° C.) solution of 10.0 g (0.0334 mole) of ethyl 2-amino-4-(p-nitrophenyl)-5-thiazolecarboxylate in 100 ml. of concentrated HCl and 100 ml. of glacial HOAc was added 7.0 g (0.101 mole) of NaNO2 in 15 minutes. The reaction mixture was stirred for 10 minutes and poured into a solution of 3.78 g (0.038 mole) of CuCl in 60 ml. of concentrated HCl. A slow gas evolution occurred which was accelerated when 50 ml. of water was added to the reaction mixture. The reaction mixture gradually turned yellow with precipitation of white solid. The precipitate was extracted with CHCl3. The CHCl3 solution was dried (MgSO4) and concentrated under reduced pressure. The residue was boiled with hot MeOH and filtered. The solid was recrystallized from acetone-chloroform to give 2.4 g of the desired product, m.p. 146°-148° C.

reactant | ethyl 2-amino-4-p-nitrophenyl-5-thiazolecarboxylate | NC=1SC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C12H11N3O4S
reactant | thiourea | NC(=S)N | CH4N2S
reactant | ethyl 2-amino-4-(p-nitrophenyl)-5-thiazolecarboxylate | 0.0334 mole, 10.0 g | NC=1SC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C12H11N3O4S
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.101 mole, 7.0 g | N(=O)[O-].[Na+]
catalyst | CuCl | 0.038 mole, 3.78 g | Cl[Cu]
solvent | water | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
product | Ethyl 2-Chloro-4-(p-Nitrophenyl)-5Thiazolecarboxylate | 2.4 g | ClC=1SC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C12H9ClN2O4S
